US08748418B2
d) 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methoxy-methyl-amide
A solution of 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid (150 mg, 0.76 mmole) in dichloromethane (5 ml) was subsequently treated at 23° C. with N,O-dimethylhydroxylamine hydrochloride (78 mg, 0.80 mmole), N-methylmorpholine (0.09 ml, 0.8 mmole) and EDCI.HCl (154 mg, 0.8 mmole) and stirring was continued for 16 h. The mixture was washed with 1 M aqueous HCl and H2O, the organic layer was dried, evaporated and the residue purified by chromatography on silica gel using cyclohexane/AcOEt (2:1) to give the title compound (164 mg) as a colorless oil. MS: m/z=240.1 [M]+.

reactant | 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid | 0.76 mmole, 150 mg | ClC=1C(=NN(C1)C(F)F)C(=O)O | C5H3ClF2N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.80 mmole, 78 mg | Cl.CNOC
reactant | N-methylmorpholine | 0.8 mmole, 0.09 ml | CN1CCOCC1 | C5H11NO
reactant | EDCI.HCl | 0.8 mmole, 154 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methoxy-methyl-amide | 164 mg | CON(C(=O)C1=NN(C=C1Cl)C(F)F)C | C7H8ClF2N3O2
